US08633237B2
N-(5-(benzo[c][1,2,5]oxadiazol-5-yloxy)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide
A mixture of 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[c][1,2,5]oxadiazole (0.313 mmol, 77 mg), N-(5-hydroxy-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide (0.157 mmol, 40 mg), copper (II)acetate (0.157 mmol, 28.5 mg), triethylamine (0.783 mmol, 0.110 mL, 79 mg) and 4A molecular sieves (100 mg) in DCM (1 mL) was stirred at room temperature for 60 h. The reaction mixture was filtered through dicalite and the pad washed with MeOH before the filtrate was concentrated to dryness. The residue was purified by prep HPLC to give a brown film (32. mg, 5.5%). MS (ESI): m/z [M+H]+ 374.0

reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[c][1,2,5]oxadiazole | 0.313 mmol, 77 mg | CC1(OB(OC1(C)C)C1=CC=2C(=NON2)C=C1)C | C12H15BN2O3
reactant | N-(5-hydroxy-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide | 0.157 mmol, 40 mg | OC=1C=C2CCC(C2=CC1)NS(=O)(=O)C(C)C | C12H17NO3S
reactant | triethylamine | 0.783 mmol, 0.110 mL, 79 mg | C(C)N(CC)CC | C6H15N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | copper (II)acetate | 0.157 mmol, 28.5 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | N-(5-(benzo[c][1,2,5]oxadiazol-5-yloxy)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide | N=1ON=C2C1C=CC(=C2)OC=2C=C1CCC(C1=CC2)NS(=O)(=O)C(C)C | C18H19N3O4S
